US09108938B2
2,6-difluoro-N-(2-(2-methylpyrimidin-5-yl)-2-morpholinoethyl)benzamide
From 2,6-difluorobenzoic acid and 2-(2-methylpyrimidin-5-yl)-2-morpholinoethanamine.

reactant | 2,6-difluorobenzoic acid | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | 2-(2-methylpyrimidin-5-yl)-2-morpholinoethanamine | CC1=NC=C(C=N1)C(CN)N1CCOCC1 | C11H18N4O
product | 2,6-difluoro-N-(2-(2-methylpyrimidin-5-yl)-2-morpholinoethyl)benzamide | FC1=C(C(=O)NCC(N2CCOCC2)C=2C=NC(=NC2)C)C(=CC=C1)F | C18H20F2N4O2
